US07723378B2
A solution of 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid (1.67 g, 7.58 mmol) and hydroxylamine hydrochloride (780 mg, 11.36 mmol) in 1-methyl-2-pyrrolidone is heated to 80° C. for 30 min in the microwave (300 W, active cooling during irradiation). The reaction mixture is diluted with diethyl ether and washed with water and brine. The organic extract is dried over Na2SO4, filtered and evaporated to give 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid (1.55 g) as a beige solid; LC-MS: tR=0.89 min, 1H NMR (D6-DMSO): δ 12.25 (s, 1H), 7.45 (s, 2H), 2.91-2.84 (m, 2H), 2.67-2.59 (m, 2H), 2.35-2.30 (m, 5H), 1.14 (t, J=7.6 Hz, 3H).

reactant | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid | 7.58 mmol, 1.67 g | C(C)C1=C(C(=CC(=C1)C=O)C)CCC(=O)O | C13H16O3
reactant | hydroxylamine hydrochloride | 11.36 mmol, 780 mg | Cl.NO
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid | 1.55 g | C(#N)C1=CC(=C(C(=C1)C)CCC(=O)O)CC | C13H15NO2
